US04771050
A mixture of methyl 3,4-dihydro-2-isopropyl-3-oxo-2H1,4-benzothiazine-4-acetate (50.0 g), phosphorus pentasulfide (79.5 g), and toluene (450 ml) was refluxed for 5.5 hours with stirring. After cooling, the insoluble matter was removed by filtration, and the solvent was evaporated off. To the residue isopropyl ether (300 ml) was added, and the insoluble matter was removed by filtration. The filtrate was concentrated, and the residue was crystallized from 2-propanol, to give methyl 3,4-dihydro-2- isopropyl-3-thioxo-2H-1,4-benzothiazine-4-acetate as crystals. Yield was 27.0 g (51.0%). Recrystallization from 2-propanol gave yellow prisms. mp 99°-100° C.

reactant | methyl 3,4-dihydro-2-isopropyl-3-oxo-2H1,4-benzothiazine-4-acetate | 50.0 g | C(C)(C)C1SC2=C(N(C1=O)CC(=O)OC)C=CC=C2 | C14H17NO3S
reactant | phosphorus pentasulfide | 79.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3,4-dihydro-2- isopropyl-3-thioxo-2H-1,4-benzothiazine-4-acetate | C(C)(C)C1SC2=C(N(C1=S)CC(=O)OC)C=CC=C2 | C14H17NO2S2
